US09388189B2
(S)-2-(1-((6-Amino-5-(3-hydroxy-5-(trifluoromethoxy)phenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (82 mg, 0.19 mmol) was treated with 3-hydroxy-5-(trifluoromethoxy)phenylboronic acid (124 mg, 0.56 mmol), sodium carbonate (2M, 375 μl, 0.75 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (15 mg, 0.02 mmol) according to the method described in Example 3 to give 52 mg (51% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.19 mmol, 82 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 3-hydroxy-5-(trifluoromethoxy)phenylboronic acid | 0.56 mmol, 124 mg | OC=1C=C(C=C(C1)OC(F)(F)F)B(O)O | C7H6BF3O4
reactant | sodium carbonate | 0.75 mmol, 2M, 375 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(3-hydroxy-5-(trifluoromethoxy)phenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 52 mg, 51% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=CC(=C2)OC(F)(F)F)O | C26H22F3N7O3
